US04886803
1-(N,N-Dimethylsulfamoyl)-2-ethoxycarbonyl-5,6-dimethoxybenzimidazole
1-(N,N-dimethylsulfamoyl)-5,6-dimethoxybenzimidazole (5.70 g) was dissolved in dry THF (170 ml) in a dry argon atmosphere, cooled to -60° C. and a solution of n-butyl lithium (1.58M) in hexane (15.2 ml) was added dropwise and stirred for 30 minutes. After ethyl chloroformate (2.60 g) was added dropwise, the mixture was slowly returned to room temperature and allowed to react overnight. THF was distilled off, the residue was dissolved in ethyl acetate, washed with water and dried over anhydrous Na2SO4, and the solvent was distilled off. Purification of the residue by column chromatography on silica gel gave the title compound (5.13 g) as an oily product.

reactant | 1-(N,N-dimethylsulfamoyl)-5,6-dimethoxybenzimidazole | 5.70 g | CN(S(=O)(=O)N1C=NC2=C1C=C(C(=C2)OC)OC)C | C11H15N3O4S
reactant | n-butyl lithium | 1.58M | C(CCC)[Li]
reactant | ethyl chloroformate | 2.60 g | ClC(=O)OCC | C3H5ClO2
solvent | THF | 170 ml | C1CCOC1 | C4H8O
solvent | hexane | 15.2 ml | CCCCCC | C6H14
product | 1-(N,N-Dimethylsulfamoyl)-2-ethoxycarbonyl-5,6-dimethoxybenzimidazole | 5.13 g | CN(S(=O)(=O)N1C(=NC2=C1C=C(C(=C2)OC)OC)C(=O)OCC)C | C14H19N3O6S
